US04565870
7 parts of γ-chlorobutyraldehyde diethyl acetal, 50 parts of isopropanol and 7.6 parts of 3-(β-aminoethyl)-indole hydrochloride were stirred for 7 hours at 83° C., and the mixture was cooled and then filtered under suction to give 5.5 parts (49.5%) of 1-(γ-chloropropyl)-1,2,3,4-tetrahydro-β-carboline hydrochloride of melting point 219°-221° C. The substance was identical to the product of Example 1.

reactant | γ-chlorobutyraldehyde diethyl acetal | C(C)OC(CCCCl)OCC | C8H17ClO2
reactant | 3-(β-aminoethyl)-indole hydrochloride | Cl.NCCC1=CNC2=CC=CC=C12
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(γ-chloropropyl)-1,2,3,4-tetrahydro-β-carboline hydrochloride | 49.5% | Cl.ClCCCC1NCCC=2C3=CC=CC=C3NC12 | InChI=1S/C14H17ClN2.ClH/c15-8-3-6-13-14-11(7-9-16-13)10-4-1-2-5-12(10)17-14;/h1-2,4-5,13,16-17H,3,6-9H2;1H
